US05470845
A. α-Ethenyl-4-phenoxybenzenemethanol
tert-Butyllithium (24.5 mL, 1.7M in pentane, 42.2 mmol) was added dropwise over 30 min to a solution of 4-bromodiphenyl ether (5.00 g, 20.1 mmol) in THF (50 mL) at -78° C. under argon. The cooling bath was removed and the bright yellow reaction mixture was warmed to 0° C. over 20 min. The reaction was stirred at 0° C. for 30 min, at which time a tan-colored solution developed. Freshly distilled acrolein (1.6 mL, 24 mmol) was added dropwise over 5 min. The colorless reaction mixture was stirred at 0° C. for 15 min, then quenched by addition of saturated NH4Cl (10 mL). The mixture was diluted with diethyl ether (200 mL) and the organic layer was washed with water (20 mL) and brine (50 mL), then dried over MgSO4. Evaporation gave a crude oil which was purified by flash chromatography on silica gel (400 g) eluted with a step gradient of 10:90 EtOAc/hexane to 15:85 EtOAc/hexane to 20:80 EtOAc/hexane to provide title compound (3.31 g, 73%) as a colorless oil.

reactant | tert-Butyllithium | 42.2 mmol, 1.7M, 24.5 mL | C(C)(C)(C)[Li]
reactant | 4-bromodiphenyl ether | 20.1 mmol, 5.00 g | C1=CC=C(C=C1)OC2=CC=C(C=C2)Br | C12H9BrO
reactant | acrolein | 24 mmol, 1.6 mL | C(=O)C=C | C3H4O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | α-Ethenyl-4-phenoxybenzenemethanol | 3.31 g, 73% | C(=C)C(O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C15H14O2
